US07645789B2
To a solution of (R)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(1-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-6-fluoro-2-(4-hydroxy-2-methylbutan-2-yl)-1H-indol-5-yl)cyclopropanecarboxamide containing some 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(6-fluoro-2-(4-hydroxy-2-methylbutan-2-yl)-1H-indol-5-yl)cyclopropanecarboxamide (315 mg, 0.55 mmol) in methanol (3 mL) and water (0.3 mL) was added p-TsOH.H2O (21 mg, 0.11 mmol). The mixture was heated at 80° C. for 30 minutes. The reaction was partitioned between ethyl acetate and water and the aqueous layer was extracted with ethyl acetate twice. The combined organic layers were washed with saturated. NaHCO3 solution and brine and dried over MgSO4. After the removal of solvent, the residue was purified by column chromatography (20-80% ethyl acetate-hexanes) to provide (R)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(1-(2,3-dihydroxypropyl)-6-fluoro-2-(4-hydroxy-2-methylbutan-2-yl)-1H-indol-5-yl)cyclopropanecarboxamide (92 mg, 31%). ESI-MS m/z calc. 534.2, found 535.5 (M+1)+. Retention time 1.72 minutes. 1H NMR (400 MHz, DMSO-d6) δ 8.32 (s, 1H), 7.53 (d, J=1.0 Hz, 1H), 7.43-7.31 (m, 4H), 6.17 (s, 1H), 4.97-4.92 (m, 2H), 4.41 (dd, J=2.4, 15.0 Hz, 1H), 4.23 (t, J=5.0 Hz, 1H), 4.08 (dd, J=8.6, 15.1 Hz, 1H), 3.87 (s, 1H), 3.48-3.44 (m, 1H), 3.41-3.33 (m, 1H), 3.20 (dd, J=7.4, 12.7 Hz, 2H), 1.94-1.90 (m, 2H), 1.48-1.45 (m, 2H), 1.42 (s, 3H), 1.41 (s, 3H) and 1.15-1.12 (m, 2H) ppm.

reactant | (R)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(1-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-6-fluoro-2-(4-hydroxy-2-methylbutan-2-yl)-1H-indol-5-yl)cyclopropanecarboxamide | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(N(C1=CC2F)C[C@H]2OC(OC2)(C)C)C(C)(CCO)C)F | C30H33F3N2O6
reactant | 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(6-fluoro-2-(4-hydroxy-2-methylbutan-2-yl)-1H-indol-5-yl)cyclopropanecarboxamide | 0.55 mmol, 315 mg | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(NC1=CC2F)C(C)(CCO)C)F | C24H23F3N2O4
reactant | p-TsOH.H2O | 0.11 mmol, 21 mg | CC=1C=CC(=CC1)S(=O)(=O)O.O
solvent | methanol | 3 mL | CO | CH4O
solvent | water | 0.3 mL | O | H2O
product | (R)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(1-(2,3-dihydroxypropyl)-6-fluoro-2-(4-hydroxy-2-methylbutan-2-yl)-1H-indol-5-yl)cyclopropanecarboxamide | 92 mg, 31% | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(N(C1=CC2F)C[C@H](CO)O)C(C)(CCO)C)F | C27H29F3N2O6
